US07550480B2
18e) 5-(2-fluorophenyl)-1-(4-fluorophenyl)-2(1H)-quinolinone
A mixture of the compound of Example 18(d) (0.1 g, 4.18 mmol), 4-fluorophenylboronic acid (0.118 g, 0.836 mmol), triethylamine (0.116 mL, 0.836 mmol), pyridine (0.068 mL, 0.836 mmol), copper (II) acetate (0.156 g, 0.836 mmol) and powdered 4 Å sieves in dichloromethane (10 mL) was stirred at RT for 7 h. Further quantities of fluorophenylboronic acid (0.06 g), copper (II) acetate (0.075 g) and powdered 4 Å sieves were added and stirring continued for 18 h. The mixture was retreated as above and stirred for a further 5 h then diluted with dichloromethane (20 mL) and filtered through a pad of celite. The filtrate was washed with saturated sodium carbonate and water, dried (Na2SO4) and evaporated in vacuo to give a brown solid. Flash chromatography (silica gel, 1:1 cyclohexane/ethyl acetate) afforded the title compound as a pale brown solid (0.106 g, 76%). MS(EI) m/e 334 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.65 (d of d, J=10 and 5 Hz, 1H), 7.5-7.2 (m, 9H), 7.18 (d, J=8 Hz, 1H), 6.73 (d, J=10 Hz, 1H), 6.71 (d, J=10 Hz, 1H).

reactant | 4-fluorophenylboronic acid | 0.836 mmol, 0.118 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | triethylamine | 0.836 mmol, 0.116 mL | C(C)N(CC)CC | C6H15N
reactant | pyridine | 0.836 mmol, 0.068 mL | N1=CC=CC=C1 | C5H5N
reactant | fluorophenylboronic acid | 0.06 g | FOB(O)C1=CC=CC=C1 | C6H6BFO2
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
catalyst | copper (II) acetate | 0.836 mmol, 0.156 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper (II) acetate | 0.075 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 5-(2-fluorophenyl)-1-(4-fluorophenyl)-2(1H)-quinolinone | 0.106 g, 76% | FC1=C(C=CC=C1)C1=C2C=CC(N(C2=CC=C1)C1=CC=C(C=C1)F)=O | C21H13F2NO
